US07223788B2
5-p-Tolylethinylfuran-2-carboxylic acid [4-(3-dimethylaminopyrrolidin-1-yl)phenyl]amide
0.042 ml of diisopropylamine was added under argon to 3.8 mg of Pd(tBu)2Cl2 and 0.95 mg of Cul in 0.2 ml of DMF. A solution of 94.6 mg of 5-bromofuran-2-carboxylic acid [4-(3-dimethylaminopyrrolidin-1-yl)phenyl]-amide in 0.3 ml of DMF and a solution of 4-ethynyltoluene in 0.3 ml of DMF were then added dropwise. The solution was stirred at room temperature overnight. The precipitate which had separated out was filtered off with suction and the filtrate purified by preparative HPLC. The desired product with the molecular weight of 413.52; MS (ESI): 414 was obtained as hydrotrifluoroacetate.

reactant | diisopropylamine | 0.042 ml | C(C)(C)NC(C)C | C6H15N
reactant | 5-bromofuran-2-carboxylic acid [4-(3-dimethylaminopyrrolidin-1-yl)phenyl]-amide | 94.6 mg | CN(C1CN(CC1)C1=CC=C(C=C1)NC(=O)C=1OC(=CC1)Br)C | C17H20BrN3O2
reactant | 4-ethynyltoluene | C(#C)C1=CC=C(C=C1)C | C9H8
solvent | DMF | 0.2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 0.3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 0.3 ml | CN(C)C=O | C3H7NO
product | 5-p-Tolylethinylfuran-2-carboxylic acid [4-(3-dimethylaminopyrrolidin-1-yl)phenyl]amide | CN(C1CN(CC1)C1=CC=C(C=C1)NC(=O)C=1OC(=CC1)C#CC1=CC=C(C=C1)C)C | C26H27N3O2
